US07504413B2
3-Chloro-N-((1S)-2-[(2-methylalanyl)amino]-1-{[4-(8-methylimidazo[1,2-a]pyridin-2-yl)phenyl]methyl}ethyl)-4-[(1-methylethyl)oxy]benzamide
Following the procedure described above with N-((1S)-2-amino-1-{[4-(8-methylimidazo[1,2-a]pyridin-2-yl)phenyl]methyl}ethyl)-3-chloro-4-[(1-methylethyl)oxy]benzamide and N-[(1,1-dimethylethyl)oxy]carbonyl)-2-methylalanine provided the title product as a white solid. ESMS [M+H]+: 563.2.

reactant | N-((1S)-2-amino-1-{[4-(8-methylimidazo[1,2-a]pyridin-2-yl)phenyl]methyl}ethyl)-3-chloro-4-[(1-methylethyl)oxy]benzamide | NC[C@H](CC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C)C1)NC(C1=CC(=C(C=C1)OC(C)C)Cl)=O | C27H29ClN4O2
reactant | 2-methylalanine | CC(N)(C)C(=O)O | C4H9NO2
product | 3-Chloro-N-((1S)-2-[(2-methylalanyl)amino]-1-{[4-(8-methylimidazo[1,2-a]pyridin-2-yl)phenyl]methyl}ethyl)-4-[(1-methylethyl)oxy]benzamide | ClC=1C=C(C(=O)N[C@H](CNC(C(N)(C)C)=O)CC2=CC=C(C=C2)C=2N=C3N(C=CC=C3C)C2)C=CC1OC(C)C | C31H36ClN5O3
